data/specific_train_final.csv
"[H:20][O:21][O].C(C(O[O:10])(Cl)Cl)(O)Cl>>[H:20][O:10]OC(C(O)Cl)(Cl)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:3][C:2](=[O:1])[CH:4]([C:7]([CH3:8])([CH2:10][O:11][N+:12](=[O:14])[O-:13])[OH:9])[O:5][O:6]>>[H:3][O:6][O:5][CH:4]([C:2]=[O:1])[C:7]([CH3:8])([CH2:10][O:11][N+:12](=[O:14])[O-:13])[OH:9] 2,3-3,6;2,3-2;6-3,6",Room Temperature,Propagation,abstraction
"CCC(CC[O:21][O:20][O])O.[N+](=O)[O-]>>CCC(CC[O:21])O.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)C(CO)O[O:20].[N:10]=O>>CC(C)C(CO)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C(C)(C)O[N+](=O)[O-])[O:20][O:21][O]>>CC(C(C)(C)O[N+](=O)[O-])[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:9][CH2:8][CH2:7][C:6](=[O:10])[O:5][O:4][O:3][N+:2](=[O:11])[O-:1]>>[CH3:9][CH2:8][CH2:7][C:6](=[O:10])[O:5][O:4][O:3].[N+:2](=[O:11])[O-:1] 2,3-3; 2,3-2",Room Temperature,Initiation,homolyze
"CC1=CC2(C(C([CH:10]1)([O:20][O:21]2)C)O)C>>CC1=CC(C(C2([CH:10]1[O:20]2)C)O)([O:21])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC(C)C(C)C[O:21][O:20][O].[N+](=O)[O-]>>CC(C)C(C)C[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:1][O:2][CH:3]=[C:4]([CH3:5])[CH:6]([CH2:7][OH:8])[O:9][O:10]>>[H:1][O:10][O:9][CH:6]([CH2:7][OH:8])[C:4]([CH3:5])[CH:3]=[O:2] 1,2-2,3; 1,2-1,10; 10-1,10; 3,4-3,2; 3,4-4",Room Temperature,Propagation,abstraction
"[CH3:1][C:2](=[CH:8][O:9])[CH2:3][O:4][N+:5](=[O:7])[O-:6].[O:10][O:11]>>[CH3:1][C:2]([CH2:3][O:4][N+:5](=[O:7])[O-:6])([CH:8]=[O:9])[O:10][O:11] 9-9,8; 8,2-9,8; 8,2-2,10; 10-10,2",Room Temperature,Termination,recombine
[CH3:9][C:8]1([CH:5]2[CH2:4][CH2:3][C:2]([CH:7]1[CH2:6]2)([CH2:11][O:12][N+:13](=[O:15])[O-:14])[O:1])[CH3:10].[N:17](=[O:18])[O:16]>>[CH3:9][C:8]1([CH:5]2[CH2:4][CH2:3][C:2]([CH:7]1[CH2:6]2)([CH2:11][O:12][N+:13](=[O:15])[O-:14])[O:1])[CH3:10].[N+:17](=[O:18])[O-:16] 17-16,Room Temperature,Propagation,ha resonance
"[H:15][O:14][O:13][CH2:12][CH:9][O:10][H:11].[O:16][O:17]>>[H:11][O:16][O:17].[H:15][O:14][O:13][CH2:12][CH:9]=[O:10] 16-11,16; 11,10-11,16; 11,10-10,9; 9-9,10",Room Temperature,Termination,abstraction
"CCC1(C=CC2C(C1(OO2)C)O)OO[O:20][N+:10]([O-])=O>>CCC1(C=CC2C(C1(OO2)C)O)OO[O:20].[N+:10]([O-])=O 10,20-10;10,20-20",Room Temperature,Initiation,homolyze
"[CH3:1][C:2](=[CH2:5])[CH:3]=[O:4].[OH:8].[O:6][O:7]>>[CH3:1][C:2]([CH2:5][OH:8])[CH:3]=[O:4].[O:6][O:7] 8-5,8; 2,5-5,8; 2,5-2",Room Temperature,Propagation,addition
"CC(CCOC(=O)C)O[O:20].[N+](=O)([O-])[O:10]>>CC(CCOC(=O)C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
[CH3:6][CH2:5][CH2:4][C:3]12[CH:7]=[CH:8][CH:9]([CH:11]([CH:2]1[OH:1])[O:12][O:13]2)[O:10].[N:15](=[O:16])[O:14]>>[CH3:6][CH2:5][CH2:4][C:3]12[CH:7]=[CH:8][CH:9]([CH:11]([CH:2]1[OH:1])[O:12][O:13]2)[O:10].[N+:15](=[O:16])[O-:14] 15-14,Room Temperature,Propagation,ha resonance
"CC(C(C)O[O:20])OC(=O)C.[N+](=O)([O:10])[O]>>CC(C(C)O[O:20][O:10][N+](=O)[O])OC(=O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:1][CH:2]([C:5]([CH3:15])([CH:6]([CH2:8][O:9][O:10])[OH:7])[O:11][N+:12](=[O:14])[O-:13])[O:3][H:4]>>[H:4][O:3][CH:2][C:5]([CH3:15])([CH:6]([CH2:8][O:9][O:10][H:1])[OH:7])[O:11][N+:12](=[O:14])[O-:13] 10-1,10;1,2-1,10;1,2-2",Room Temperature,Propagation,abstraction
"CCCCC(=O)[O:20][O:21][O]>>CCCCC(=O)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(COC(=O)C)[O:10][O:11][O:20][N+:21](=O)[O-]>>CC(COC(=O)C)[O:10][O:20][O:11].[N+:21](=O)[O-] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"CCC12C=CC(C(C1O)OO2)[O:20].[N+:10](=O)[O-]>>CCC12C=CC(C(C1O)OO2)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:10](C(COO)OO)[O:20][OH:21]>>C[C:10](=[O:20])C(COO)OO.[OH:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"C[C:20](=[CH:21]CO)[O:10][O:11]N=O>>C[C:20](=[O:10])[CH:21]CO.N(=O)[O:11] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"C(COC[O:20][O:21]OO)O>>C(COC[O:20])O.OO[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:3][C:2](=[CH2:1])[CH:4]([CH2:5][OH:6])[O:7].[N+:9](=[O:10])[O-:8]>>[CH3:3][C:2](=[CH2:1])[CH:4]([CH2:5][OH:6])[O:7][N+:9](=[O:10])[O-:8] 7-7,9; 9-9,7",Room Temperature,Termination,recombine
"[H:5][O:4][CH:3]([CH2:6][OH:7])[C:2]([CH3:1])([CH2:12][O:13][N+:14](=[O:16])[O-:15])[O:8][O:9][N:10]=[O:11]>>[H:5][O:4][CH:3]([CH2:6][OH:7])[C:2]([CH3:1])([CH2:12][O:13][N+:14](=[O:16])[O-:15])[O:8].[N:10](=[O:11])[O:9] 9,8-8; 8,9-9",Room Temperature,Initiation,homolyze
"C(C(O[O:20])Cl)O.[N:10]=O>>C(C(O[O:20][N:10]=O)Cl)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCOC(CO)[O:20][O:21]OO>>CCOC(CO)[O:20].OO[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
